US08372832B2
5-Bromo-furan-2-carboxylic Acid Hydrazide (Intermediate Compound)
A mixture of 5-bromo-furan-2-carboxylic acid (38.2 g, 200 mmol) and thionylchloride (163.1 g, 1.37 mol) was stirred at 70° C. overnight. The mixture of 5-bromo-furan-2-carbonyl chloride was evaporated, solved in tetrahydrofuran (10 ml) and added to a mixture of hydrazine monohydrate (120.1 g, 2.4 mol), followed by stirring for 0.5 hours at <5° C. Water (50 ml) was added followed by filtration. The crystalline product was recrystallized from ethanol (125 ml, 96%). Yield 21.2 g (52%).

reactant | 5-bromo-furan-2-carboxylic acid | 200 mmol, 38.2 g | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | thionylchloride | 1.37 mol, 163.1 g | S(=O)(Cl)Cl | Cl2OS
reactant | 5-bromo-furan-2-carbonyl chloride | BrC1=CC=C(O1)C(=O)Cl | C5H2BrClO2
reactant | hydrazine monohydrate | 2.4 mol, 120.1 g | O.NN
solvent | Water | 50 ml | O | H2O
product | 5-Bromo-furan-2-carboxylic Acid Hydrazide | BrC1=CC=C(O1)C(=O)NN | C5H5BrN2O2
